US05475013
Methyl aminoisobutyrate hydrochloride.
A 500 mL round bottomed flask equipped with nitrogen inlet, thermometer adapter, solids addition funnel, and magnetic stirrer was placed in an ice salt bath and charged with 100 mL of methanol. To this solution was added thionyl chloride(18.0 mL, 0.25 mol) via syringe at such a rate that the internal temperature was maintained at less than 0° C. This solution was then treated with aminoisobutyric acid(19.6 g, 0.19 mol) portion wise from the addition funnel at such a rate that the temperature did not rise above 5° C. The ice bath was removed and replaced with an oil bath and the solution warmed to 50° C. for 1 h and then concentrated in vacuo. The salt was thoroughly dried under vacuum to give the desired product as a white solid 28 g, 96%, mp 185° C. 1H nmr (CDCl3) 300 MHz 8.87(brs, 3H), 3.74(s, 3H), 1.65(s, 6H).

reactant | thionyl chloride | 0.25 mol, 18.0 mL | S(=O)(Cl)Cl | Cl2OS
reactant | aminoisobutyric acid | 0.19 mol, 19.6 g | NC(C(=O)O)(C)C | C4H9NO2
reactant | methanol | 100 mL | CO | CH4O
product | Methyl aminoisobutyrate hydrochloride | 28 g, 96% | Cl.NC(C(=O)OC)(C)C | InChI=1S/C5H11NO2.ClH/c1-5(2,6)4(7)8-3;/h6H2,1-3H3;1H
